US06855710B2
a) 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone
5.07 g (23 mmol) of 5-nitro-2-indolinone are stirred for 2.5 hours at 100° C. together with 15.5 g (69 mmol) of triethyl orthobenzoate in 50 ml of acetic anhydride. After cooling, 100 ml of ether/petroleum ether (1:1) are added. The precipitate formed is suction filtered, washed with ether/petroleum ether (1:1) and dried.

reactant | 5-nitro-2-indolinone | 23 mmol, 5.07 g | [N+](=O)([O-])C=1C=C2CC(NC2=CC1)=O | C8H6N2O3
reactant | triethyl orthobenzoate | 69 mmol, 15.5 g | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
